US09260414B2
(b) 4-(4-cyclopropanecarbonyl-piperazin-1-yl)-benzoic acid
To a mixture of 4-piperazin-1-yl-benzoic acid (20 g, 71.6 mmol) and triethylamine (58 g, 573 mmol) in dichloromethane (500 mL) was added cyclopropanecarbonyl chloride dropwise at 0° C. The reaction mixture was stirred at RT overnight. The solvent was removed by rotary evaporation. The residue was diluted with water, treated with sodium hydroxide, and washed with ethyl acetate and dichloromethane. The aqueous phase was acidified to pH 6 with 5 N HCl. The resulting precipitate was collected by filtration and concentrated to dryness to provide the title compound (10 g, 51% yield) as a white solid. 1H NMR(CH3OD, 400 MHz) δ (ppm) 7.87 (m, 2H), 6.95 (m, 2H), 3.90 (s, 2H), 3.73 (s, 2H), 3.29 (m, 4H), 1.99 (m, 1H), 0.86 (m, 4H).

reactant | 4-piperazin-1-yl-benzoic acid | 71.6 mmol, 20 g | N1(CCNCC1)C1=CC=C(C(=O)O)C=C1 | C11H14N2O2
reactant | triethylamine | 573 mmol, 58 g | C(C)N(CC)CC | C6H15N
reactant | cyclopropanecarbonyl chloride | C1(CC1)C(=O)Cl | C4H5ClO
solvent | dichloromethane | 500 mL | ClCCl | CH2Cl2
product | 4-(4-cyclopropanecarbonyl-piperazin-1-yl)-benzoic acid | 10 g, 51% yield | C1(CC1)C(=O)N1CCN(CC1)C1=CC=C(C(=O)O)C=C1 | C15H18N2O3
